US04775675
2-(2-Carboxyphenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid
A mixture containing 6 g (30 mmoles) of 2-carboxybenzaldehyde and 6 g (30 mmoles) of D-penicillamine in 44 ml of water is stirred for 3 hours. The precipitate is filtered out and washed with aqueous methanol to given the crude title acid in a yield of 9.86 g (82.6%) which can be recrystallized from methanol containing water, m.p.: 185°-186° C. [α]D18 =+385° (c=0.51, methanol).

reactant | 2-carboxybenzaldehyde | 30 mmoles, 6 g | C(=O)(O)C1=C(C=O)C=CC=C1 | C8H6O3
reactant | D-penicillamine | 30 mmoles, 6 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | water | 44 ml | O | H2O
product | 2-(2-Carboxyphenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | C(=O)(O)C1=C(C=CC=C1)C1SC([C@@H](N1)C(=O)O)(C)C | C13H15NO4S
